US08476297B2
To a 50 mL round-bottomed flask was added 4-fluoroaniline (383 μL, 3971 μmol, Aldrich), 2-bromoethyl methyl ether (552 μL, 3971 μmol, Aldrich), sodium carbonate (667 mg, 7943 μmol), DMF (2 mL). The reaction mixture was stirred at 80° C. for overnight (ca 17 h). The mixture was cooled down to RT. The reaction mixture was diluted with water (30 mL) and extracted with EtOAc (2×40 mL). The organic extract was washed with water (20 mL), saturated NaCl (20 mL), dried over Na2SO4, filtered and concentrated in vacuo and the residue was purified by silica gel chromatography, eluting with 30% EtOAc/hexanes to give 4-fluoro-N-(2-methoxyethyl)benzenamine. MS (ESI pos. ion) m/z: 170 (M+1).

reactant | 4-fluoroaniline | 3971 μmol, 383 μL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 2-bromoethyl methyl ether | 3971 μmol, 552 μL | COCCBr | C3H7BrO
reactant | sodium carbonate | 7943 μmol, 667 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | 4-fluoro-N-(2-methoxyethyl)benzenamine | FC1=CC=C(C=C1)NCCOC | C9H12FNO
